US05294603
To a suspension of L-proline (1.15 g, 0.01 mol) in pyridine (2 ml) was added propionic anhydride (2.60 g, 0.02 mol). The mixture was stirred for 30 min. at room temperature. The solvent was removed in vacuo, and the product was recrystallized from ethyl acetate to give N-propionyl-L-proline (1.60 g, 96%): colorless needles; m.p. 98°-99° C.; [α]D25 -186° (c, 1.7, CHCl3); 1H NMR (360 MHz) 4.60 (1H, m), 3.57 (1H, m), 3.44 (1H, m), 2.38 (2H, q, J=7.2), 2.00 (4H, m), 1.17 (3H, t, J=7.2). Anal. Calcd. for C8H13NO3 : C, 56.13; H, 7.65; N, 8.18. Found: C, 56.15; H, 7.67; N, 8.17.

reactant | L-proline | 0.01 mol, 1.15 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | propionic anhydride | 0.02 mol, 2.60 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-propionyl-L-proline | 1.60 g, 96% | C(CC)(=O)N1[C@H](C(=O)O)CCC1 | C8H13NO3
